US08809339B2
3-(3-((2-((2-phenylpyrimidin-5-yl)carbamoyl)-4-(piperidin-1-yl)phenyl)-carbamoyl)benzylthio)benzoic acid
To a solution of 2-(3-(bromomethyl)benzamido)-N-(2-phenylpyrimidin-5-yl)-5-(piperidin-1-yl)benzamide (120 mg, 0.23 mmol, 1.00 equiv) in N,N-dimethylformamide (10 mL) was added 3-mercaptobenzoic acid (42.12 mg, 0.27 mmol, 1.20 equiv) and triethylamine (46.08 mg, 0.46 mmol, 2.00 equiv) and the resulting solution was stirred for 3 h at room temperature. The mixture was diluted with 70 mL of water, extracted with 3×50 mL of ethyl acetate and the organic layers combined, dried over sodium sulfate, and concentrated under vacuum. The crude product (100 mg) was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA to afford 24.7 mg (17%) of a light yellow solid. 1H-NMR (300 MHz, DMSO, ppm): δ 10.94 (m, 2H), 9.23 (d, J=9.3 Hz, 2H), 8.36 (m, 2H), 8.12 (d, J=9 Hz, 1H), 7.95 (s, 1H), 7.85 (s, 1H), 7.73 (m, 2H), 7.45 (m, 9H) 4.39 (s, 2H), 3.33 (s, 4H), 1.72 (s, 6H). MS (ES, m/z): 644 [M+H]+.

reactant | 2-(3-(bromomethyl)benzamido)-N-(2-phenylpyrimidin-5-yl)-5-(piperidin-1-yl)benzamide | 0.23 mmol, 120 mg, 1.00 equiv | BrCC=1C=C(C(=O)NC2=C(C(=O)NC=3C=NC(=NC3)C3=CC=CC=C3)C=C(C=C2)N2CCCCC2)C=CC1 | C30H28BrN5O2
reactant | 3-mercaptobenzoic acid | 0.27 mmol, 42.12 mg, 1.20 equiv | SC=1C=C(C(=O)O)C=CC1 | C7H6O2S
reactant | triethylamine | 0.46 mmol, 46.08 mg, 2.00 equiv | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | 70 mL | O | H2O
product | 3-(3-((2-((2-phenylpyrimidin-5-yl)carbamoyl)-4-(piperidin-1-yl)phenyl)-carbamoyl)benzylthio)benzoic acid | 24.7 mg, 17% | C1(=CC=CC=C1)C1=NC=C(C=N1)NC(=O)C1=C(C=CC(=C1)N1CCCCC1)NC(=O)C=1C=C(CSC=2C=C(C(=O)O)C=CC2)C=CC1 | C37H33N5O4S
